US07544690B2
A mixture of conc. HCl (420 μL) and NaNO2 (44 mg, 0.64 mmol) were stirred at 70° C. for 10 min. To the reaction mixture was added a solution of cis-N2-[4-(4-amino-2-trifluoromethoxy-benzylamino)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine (free) obtained in step A of example 77 in AcOH (15 mL), and stirred at ambient temperature for 10 min. To the reaction mixture was added a solution of CuCl (146 mg, 1.47 mmol) in conc. HCl (1 mL), and stirred at 80° C. for 6 hr. The reaction mixture was alkalized with saturated aqueous NaHCO3, and the aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, purified by medium-pressure liquid chromatography (NH-silica gel, 50% EtOAc in hexane) to give a yellow oil. To a solution of above oil in EtOAc (2 mL) was added 4 M hydrogen chloride in EtOAc (10 mL). The mixture was stirred at ambient temperature for 1 hr and concentrated. A solution of the residue in Et2O (20 mL) was stirred at ambient tempareture for 1 hr. The precipitate was collected by filtration, washed with Et2O, and dried under reduced pressure to give cis-N2-[4-(4-chloro-2-trifluoromethoxy-benzylamino)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine dihydrochloride (70 mg, 29%) as a white solid.

reactant | NaNO2 | 0.64 mmol, 44 mg | N(=O)[O-].[Na+]
reactant | cis-N2-[4-(4-amino-2-trifluoromethoxy-benzylamino)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine | NC1=CC(=C(CN[C@H]2CC[C@H](CC2)NC2=NC3=CC=CC=C3C(=N2)N(C)C)C=C1)OC(F)(F)F | C24H29F3N6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HCl | 1 mL | Cl | ClH
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | HCl | 420 μL | Cl | ClH
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | CuCl | 1.47 mmol, 146 mg | Cl[Cu]
product | cis-N2-[4-(4-chloro-2-trifluoromethoxy-benzylamino)-cyclohexyl]-N4,N4-dimethyl-quinazoline-2,4-diamine dihydrochloride | 70 mg, 29% | Cl.Cl.ClC1=CC(=C(CN[C@H]2CC[C@H](CC2)NC2=NC3=CC=CC=C3C(=N2)N(C)C)C=C1)OC(F)(F)F | InChI=1S/C24H27ClF3N5O.2ClH/c1-33(2)22-19-5-3-4-6-20(19)31-23(32-22)30-18-11-9-17(10-12-18)29-14-15-7-8-16(25)13-21(15)34-24(26,27)28;;/h3-8,13,17-18,29H,9-12,14H2,1-2H3,(H,30,31,32);2*1H/t17-,18+;;
